US07087626B2
7-Bromo-2-isopropyl-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline
A 2 M solution of isopropyl magnesium chloride in tetrahydrofuran (65 μL, 0.13 mmol) is added to solution of 7-bromo-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline (50.0 mg, 0.13 mmol) in tetrahydrofuran (1 mL) at room, temperature with stirring for 2 h. The mixture is cooled to −78° C. and triethylamine (21.4 μL, 0.154 mmol) and methanesulfonyl chloride (11 μL, 0.14 mmol) added. The mixture is warmed to room temperature and allowed to stand 18 h. The mixture is treated with water, extracted with ethyl acetate, dried (sodium sulfate), filtered, and concentrated in vacuo. The residue is chromatographed on SiO2 (dichloromethane to 75% ethyl acetate/dichloromethane) to yield the title compound as a solid, 4.5 mg (9%).

reactant | isopropyl magnesium chloride | C(C)(C)[Mg]Cl
reactant | 7-bromo-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline | 0.13 mmol, 50.0 mg | BrC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C20H15BrN4
reactant | triethylamine | 0.154 mmol, 21.4 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.14 mmol, 11 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.13 mmol, 65 μL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 7-Bromo-2-isopropyl-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline | BrC1=CC=C2C(=CC(=NC2=C1)C(C)C)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C23H21BrN4
